US08039450B2
6-(1-Hydroxy-1,3-dihydro-benzo[c][1,2]oxaborol-5-yloxy)-2-isopropoxy-nicotinonitrile (D128)
To a mixture of 6-chloro-2-isopropoxy-nicotinonitrile (0.73 g, 4.0 mmol) and 3H-Benzo[c][1,2]oxaborole-1,5-diol (0.40 g, 2.66 mmol) in DMF (10 mL) was added potassium carbonate (1.10 g, 7.98 mmol). The resulting suspension was heated at 80° C. overnight. DMF was removed under reduced pressure, the residue was diluted with EtOAc (50 mL), washed with water (10 mL) and brine (2×10 mL), dried over Na2SO4, filtered, and concentrated to give brown oil. Purification was accomplished by reverse phase preparative HPLC using MeOH/H2O (0.1% AcOH) as the eluent to yield the title compound (0.21 g, 21%) as white solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 9.27 (s, 1H), 8.23 (d, J=8.6 Hz, 1H), 7.79 (d, J=7.8 Hz, 1H), 7.29 (s, 1H), 7.22-7.14 (m, 1H), 6.70 (d, J=8.2 Hz, 1H), 4.99 (s, 2H), 4.85 (sept., J=6.3 Hz, 1H), 1.19 (d, J=6.3 Hz, 6H); MS (ES) m/z: 311 (M+1)+; HPLC purity 98.44% (Maxplot), 97.99% (220 nm).

reactant | 6-chloro-2-isopropoxy-nicotinonitrile | 4.0 mmol, 0.73 g | ClC1=NC(=C(C#N)C=C1)OC(C)C | C9H9ClN2O
reactant | 3H-Benzo[c][1,2]oxaborole-1,5-diol | 2.66 mmol, 0.40 g | B1(OCC2=C1C=CC(=C2)O)O | C7H7BO3
reactant | potassium carbonate | 7.98 mmol, 1.10 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 6-(1-Hydroxy-1,3-dihydro-benzo[c][1,2]oxaborol-5-yloxy)-2-isopropoxy-nicotinonitrile | 0.21 g, 21% | OB1OCC2=C1C=CC(=C2)OC2=NC(=C(C#N)C=C2)OC(C)C | C16H15BN2O4
